US04788186
3-[[3-(4-methoxyphenyl)-1,2,4-triazolo[3,4-a]phthalazin-6-yl]oxy]-2-pyrrolidinone
6-Hydroxy-3-(4-methoxyphenyl)-1,2,4-triazolo[3,4-a]phthalazine, (9.8 g), is suspended in N,N-dimethylformamide (100 ml) and added of 50% sodium hydride in mineral oil (1.7 g). The mixture is heated to 50°-60° C. and stirred for about 2 hours. After cooling to room temperature the mixture is added portionwise with 3-bromo-2-pyrrolidone (5.5 g). [This product is prepared according to F. Korte, H. Wanholf, Ber. 97, 1976 (1964)]. Then stirring is continued for about 5 hours at a temperature of about 70° C. The mixture is then cooled to room temperature and poured into water (800 ml). The residue, which is collected by filtration, is then crystallized from ethanol/chloroform. (Yield=82%). M.p. 290°-293° C.

reactant | 6-Hydroxy-3-(4-methoxyphenyl)-1,2,4-triazolo[3,4-a]phthalazine | 9.8 g | OC1=NN2C(C3=CC=CC=C13)=NN=C2C2=CC=C(C=C2)OC | C16H12N4O2
reactant | sodium hydride | [H-].[Na+]
reactant | 3-bromo-2-pyrrolidone | 5.5 g | BrC1C(NCC1)=O | C4H6BrNO
reactant | water | 800 ml | O | H2O
solvent | N,N-dimethylformamide | 100 ml | CN(C=O)C | C3H7NO
product | 3-[[3-(4-methoxyphenyl)-1,2,4-triazolo[3,4-a]phthalazin-6-yl]oxy]-2-pyrrolidinone | Yield=82% | COC1=CC=C(C=C1)C1=NN=C2N1N=C(C1=CC=CC=C21)OC2C(NCC2)=O | C20H17N5O3
